Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fall 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is an ___ year old male who presents to ___
on ___ with severe TBI on Eliquis for Afib and Aspirin 81mg
and had a fall with headstrike today. CT head at the OSH 
revealed
a 2cm x 1.5cm x 2.2cm right frontal hemorrhagic contusion and he
was transferred to ___ ED. On arrival he was lethargic with
slurred speech however able to state his name, L facial droop,
and L sided weakness, hypertensive and with reactive pupils
bilaterally. He declined in the ED and began vomiting with
decreased arousal and worsened speech difficulty. He required
intubation for airway protection. Repeat ___ revealed severe
worsening of the R frontal contusion measuring 9cm x 5.5cm with
2.1cm of midline shift. On exam after his repeat scan his R 
pupil
was fixed and dilated.

 
Past Medical History:
GERD
CAD
DM
lumbar stenosis
s/p L3-4 Laminectomies ___ ___, MD)
lower back pain
hyperlipidemia
hypertension
cardiac stent
CABG
CVA
memory loss
___ d/o
UTI
prostate cancer s/p Brachytherapy
R shoulder injury 
multiple falls                                      
                  
 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
On admission: 
Gen: WD/WN, vomiting, 
HEENT: L forehead abrasion 
Neck: supple
Extrem: warm and well perfused

Neuro:

Mental Status: Eyes open briefly to voice. When asked if had 
pain
he pointed to his head with right hand.  Following some simple
commands on the right. 

Orientation: Attempted to state name and hospital however speech
is dysarthric.

Language: Prior to intubation. Speech dysarthric and difficult 
to
understand. Minimal verbal output. 

Upon Intubation:
  [+]Cough  [+]Gag  [ ]Over breathing the vent

Pupils equally round and sluggishly reactive to light, 2.5 to 
2mm
bilaterally. 
Pupils after intubation/repeat imaging: Right pupil 5mm and
fixed. L pupil 2mm and sluggish. 
L facial droop 

Motor: 
Normal bulk and tone bilaterally. Right upper extremity tremors
thought to be related to his ___. 

RUE: spontaneous movements
RLE: Wiggles toes to commands. Briskly withdraws leg to pain.
LUE: Localizes to noxious
LLE: Withdraws to pain. 

R toes downgoing. + Babinski on left

On discharge:
Expired. 

 
Pertinent Results:
Please see OMR for pertinent lab results. 
 
Brief Hospital Course:
Mr. ___ is an ___ year old male who had a fall with headstrike 
and was transferred to ___ where a ___ 
showed a R frontal hemorrhagic contusion and he was transferred 
to ___ ED. Upon arrival to the ED the patient had slurred 
speech, L facial and L sided weakness. Neurosurgery was 
consulted for further evaluation. On arrival the patient was 
vomiting, attempting to state his name and hospital however 
dysarthric, had a RUE tremor and weakness on the left. He was 
intubated for airway protection. A repeat NCHCT showed 
significant progression of the R frontal intracranial hemorrhage 
with IPH and SDH. On reassessment after CT his right pupil was 
fixed and dilated. His family was notified of the devastating 
hemorrhage not amenable to surgery given the type of bleed and 
anticoagulation and he was made DNR. He was transferred to the 
ICU and made CMO and extubated the following day. He was 
transferred to the neuro floor were he was pronounced at 9:55pm. 
The medical examiner accepted the case. The family and attending 
physician were notified. 
 
Medications on Admission:
 
Medications - Prescription
ALLOPURINOL - allopurinol ___ mg tablet. 1 tablet(s) by mouth
twice a day -  (Prescribed by Other Provider)
APIXABAN [ELIQUIS] - Eliquis 2.5 mg tablet. 1 tablet(s) by mouth
twice a day -  (Prescribed by Other Provider)
CITALOPRAM - citalopram 20 mg tablet. 1 tablet(s) by mouth daily
-  (Prescribed by Other Provider)
DONEPEZIL - donepezil 10 mg tablet. 0.5 (One half) tablet(s) by
mouth HS -  (Prescribed by Other Provider)
ERGOCALCIFEROL (VITAMIN D2) [VITAMIN D2] - Vitamin D2 50,000 
unit
capsule. 1 capsule(s) by mouth weekly -  (Prescribed by Other
Provider)
LISINOPRIL - lisinopril 10 mg tablet. 1 tablet(s) by mouth daily
-  (Prescribed by Other Provider)
PANTOPRAZOLE [PROTONIX] - Protonix 40 mg tablet,delayed release.
1 tablet(s) by mouth daily -  (Prescribed by Other Provider)
PHYSICAL THERAPY - physical therapy  . evaluate and treat for
gait disorder  ICD-10 R26.9
ROPINIROLE - ropinirole 0.5 mg tablet. 1 tablet(s) by mouth 
twice
daily
ROSUVASTATIN - rosuvastatin 20 mg tablet. 1 tablet(s) by mouth
daily -  (Prescribed by Other Provider)
TERAZOSIN - terazosin 5 mg capsule. 1 capsule(s) by mouth daily 
-
(Prescribed by Other Provider)
 
Medications - OTC
ACETAMINOPHEN [TYLENOL] - Tylenol ___ mg tablet. 2 tablet(s) by
mouth Q6 hours -  (Prescribed by Other Provider)
ASPIRIN - aspirin 81 mg tablet,delayed release. 1 tablet(s) by
mouth once a day -  (Prescribed by Other Provider)
DOCUSATE SODIUM [COLACE] - Colace 100 mg capsule. 1 capsule(s) 
by
mouth twice a day -  (Prescribed by Other Provider)
LOPERAMIDE [IMODIUM A-D] - Imodium A-D 2 mg capsule. capsule(s)
by mouth as needed -  (Prescribed by Other Provider)
 
Discharge Medications:
Expired. 
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
traumatic IPH, SAH, SDH

 
Discharge Condition:
Expired

 
Discharge Instructions:
Expired
 
Followup Instructions:
___